US08119624B2
3-Hydroxy-5-(2-methyl-allyloxy)-benzoic acid methyl ester
The title compound was prepared in a similar manner as described for Intermediate 1a, from methyl 3,5-dihydroxybenzoate (15.0 g, 89.2 mmol), potassium carbonate (24.7 g, 178.4 mmol) and 3-bromo-2-methyl-propene (9.0 mL, 89.2 mmol). Purification by column chromatography eluting with 15% EtOAc in hexanes gave a pale yellow solid (7.80 g, 39% yield). 1H NMR (400 MHz, CDCl3) δ 7.13-7.22 (m, 2 H) 6.66 (t, J=2.27 Hz, 1 H) 5.81 (s, 1 H) 5.06-5.16 (m, 1H) 4.93-5.04 (m, 1H) 4.44 (s, 2 H) 3.91 (s, 3 H) 1.68-1.94 (m, 3 H); LCMS for C12H14O4 m/z 223.10 (M+H)+.

reactant | methyl 3,5-dihydroxybenzoate | 89.2 mmol, 15.0 g | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | potassium carbonate | 178.4 mmol, 24.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-2-methyl-propene | 89.2 mmol, 9.0 mL | BrCC(=C)C | C4H7Br
product | 3-Hydroxy-5-(2-methyl-allyloxy)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCC(=C)C)O)=O | C12H14O4
